*** Cascode Diffpair Amplifier - AC ***

.param scale_n1 = '2m / 3.59734e-04'
.param scale_n2 = '2m / 3.71917e-04'
.param scale_nload = '4m / 1.13377e-04'
.param scale_p =  '2m / 1.368662e-04'

* Include PDK model library
.lib "/usr/local/share/pdk/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* Power
Vdd Vdd 0 DC 1.8
Vb1 Vb1 0 DC 0.35
Vb2 Vb2 0 DC -0.15
Vb3 Vb3 0 DC 1.59
Vin1 Vin+ 0 DC 1.245
Vin2 Vin- 0 DC 1.245
Vb   Vb  0 DC 0.9

*** Circuit ***
XP1 Vdd Vb1 N11 Vdd MY_PFET m='scale_p'
XP2 N11 Vb2 Vout_p N11 MY_PFET m='scale_p'
XN1 Vout_p Vb3 N12 0 MY_NFET m='scale_n2'
XN2 N12 Vin+ Nbias 0 MY_NFET m='scale_n1' 

XP3 Vdd Vb1 N21 Vdd MY_PFET m='scale_p'
XP4 N21 Vb2 Vout_n N11 MY_PFET m='scale_p'
XN3 Vout_n Vb3 N22 0 MY_NFET m='scale_n2'
XN4 N22 Vin- Nbias 0 MY_NFET m='scale_n1'

XNload Nbias Vb 0 0 MY_NFET W_val=5 L_val=0.30 m='scale_nload'

* Parameterized Subcircuits
.subckt MY_NFET Vd Vg Vs Vb W_val=5 L_val=0.15
   XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1
.ends MY_NFET

.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
   XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 w='W_val' l='L_val' nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0 mult=1 
.ends MY_PFET

.control
    option temp=125

    op

    print @m.xp1.xmp.msky130_fd_pr__pfet_01v8[id] @m.xp1.xmp.msky130_fd_pr__pfet_01v8[vth] @m.xp1.xmp.msky130_fd_pr__pfet_01v8[vds] @m.xp1.xmp.msky130_fd_pr__pfet_01v8[vdsat]
    print @m.xp2.xmp.msky130_fd_pr__pfet_01v8[id] @m.xp2.xmp.msky130_fd_pr__pfet_01v8[vth] @m.xp2.xmp.msky130_fd_pr__pfet_01v8[vds] @m.xp2.xmp.msky130_fd_pr__pfet_01v8[vdsat]
    print @m.xn2.xmn.msky130_fd_pr__nfet_01v8[id] @m.xn2.xmn.msky130_fd_pr__nfet_01v8[vth] @m.xn2.xmn.msky130_fd_pr__nfet_01v8[vds] @m.xn2.xmn.msky130_fd_pr__nfet_01v8[vdsat]
    print @m.xn1.xmn.msky130_fd_pr__nfet_01v8[id] @m.xn1.xmn.msky130_fd_pr__nfet_01v8[vth] @m.xn1.xmn.msky130_fd_pr__nfet_01v8[vds] @m.xn1.xmn.msky130_fd_pr__nfet_01v8[vdsat]

    print all

    * ---- Differential-mode run ----
    alter Vin1 ac 0.5
    alter Vin2 ac -0.5
    ac dec 100 1 1G
    set units = degrees
    let Adm = db(v(vout_p) - v(vout_n))
    let Adm_ph = ph(v(vout_p) - v(vout_n))

    * ---- Common-mode run ----
    alter Vin1 ac 0.5
    alter Vin2 ac 0.5
    ac dec 100 1 1G
    let Acm = db(v(vout_p) - v(vout_n))
    let Acm_ph = ph(v(vout_p) - v(vout_n))

    plot ac1.Adm ac2.Acm
.endc

.end

